US09422262B2
N-(3-aminophenyl)butyramide
A solution of N-(3-nitrophenyl)butyramide (8.60 g, 41.3 mmol) in MeOH (207 mL) was divided between two 500 mL flasks with stir bars. Each flask was flushed well with nitrogen, then 5% palladium on carbon (4.40 g, 2.065 mmol) was added, half to each flask. A 3-way adapter with a large hydrogen-filled balloon was attached to each flask, and the reactions were evacuated and back-filled with hydrogen five times, while stirring vigorously. The reactions were then stirred for 16 h, then filtered through a funnel packed with Celite. The filter cake was washed with MeOH, and the filtrate was concentrated, redissolved with DCM, then purified by column chromatography (EtOAc/hexanes gradient) to yield a white solid after precipitating from hexanes (5.87 g, 80%). LRMS (ESI+) (M+H): 179.18.

reactant | N-(3-nitrophenyl)butyramide | 41.3 mmol, 8.60 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(CCC)=O | C10H12N2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 207 mL | CO | CH4O
catalyst | palladium on carbon | 2.065 mmol, 4.40 g | [Pd] | Pd
product | N-(3-aminophenyl)butyramide | NC=1C=C(C=CC1)NC(CCC)=O | C10H14N2O
